US05977105
(±)-α-(4-Phenylphenylthiomethyl)-3-pyridinepropanol
Prepared according to the method described in Example 1 from 4-phenylthiophenol (0.186 g), sodium hydride (0.044 g) and (±)-3-(2-oxiranylethyl)pyridine (0.150 g) in dimethylformamide (3 ml) at room temperature to give the title compound as a solid (0.100 g).

reactant | 4-phenylthiophenol | 0.186 g | C1(=CC=CC=C1)C1=CC=C(C=C1)S | C12H10S
reactant | sodium hydride | 0.044 g | [H-].[Na+]
reactant | (±)-3-(2-oxiranylethyl)pyridine | 0.150 g | O1C(C1)CCC=1C=NC=CC1 | C9H11NO
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | (±)-α-(4-Phenylphenylthiomethyl)-3-pyridinepropanol | 0.100 g | C1(=CC=CC=C1)C1=CC=C(C=C1)SCC(CCC=1C=NC=CC1)O | C21H21NOS
